US04239901
20 g (100 mmoles) of 2-(4-amino-3-chlorophenyl) propionic acid are dissolved in 20 ml of concentrated hydrochloric acid and diazotized with 6.9 g of sodium nitrite in 20 ml of water at from -2° to -6° C. The solution is thereafter stirred for a further hour and subsequently stirred into 100 ml of a freshly-prepared, ice-cold, 5.5 N solution of sodium hydrogen sulfite. Heating is then effected slowly to a temperature of from 60° to 70° C. After one hour, acidification is effected with concentrated hydrochloric acid, and the resulting reaction mixture is left at 70° C. for a further 12 hours. 2-(3-chloro-4-hydrazinophenyl)propionic acid forms therein. 22 g (100 mmoles) of 1,1,3,3-tetraethoxypropane are then added thereto. After three hours' heating to 100° C., the reaction mixture is cooled, rendered alkaline with 35% strength sodium hydroxide solution and, in order to saponify the 2-[3-chloro-4-(pyrazol-1-yl)phenyl]propionic acid ethyl ester which is formed in addition to the acid, reheated for one hour. After cooling, impurities are extracted by shaking with benzene; the aqueous phase is acidified with concentrated hydrochloric acid; the product is extracted with diethyl ether; and the ether phase is washed with water, dried and concentrated in a vacuum. 24 g (96% of theory) of 2-[3-chloro-4-(pyrazol-1-yl)phenyl]propionic acid, m.p. 83° to 85° C., are thus obtained.

reactant | 2-(4-amino-3-chlorophenyl) propionic acid | 100 mmoles, 20 g | NC1=C(C=C(C=C1)C(C(=O)O)C)Cl | C9H10ClNO2
reactant | sodium nitrite | 6.9 g | N(=O)[O-].[Na+]
reactant | sodium hydrogen sulfite | S(=O)(O)[O-].[Na+]
reactant | 2-(3-chloro-4-hydrazinophenyl)propionic acid | ClC=1C=C(C=CC1NN)C(C(=O)O)C | C9H11ClN2O2
reactant | 1,1,3,3-tetraethoxypropane | 100 mmoles, 22 g | C(C)OC(CC(OCC)OCC)OCC | C11H24O4
reactant | sodium hydroxide | [OH-].[Na+]
reactant | 2-[3-chloro-4-(pyrazol-1-yl)phenyl]propionic acid ethyl ester | C(C)OC(C(C)C1=CC(=C(C=C1)N1N=CC=C1)Cl)=O | C14H15ClN2O2
solvent | hydrochloric acid | 20 ml | Cl | ClH
solvent | water | 20 ml | O | H2O
product | 2-[3-chloro-4-(pyrazol-1-yl)phenyl]propionic acid | 24 g, 96% | ClC=1C=C(C=CC1N1N=CC=C1)C(C(=O)O)C | C12H11ClN2O2
